US06599917B1
b) 3-[4-Benzyl-2-(3-pyridyl)-5-pyrimidyl]ethynyl-3-quinuclidinol
A mixture of 110 mg of 4-benzyl-5-bromo-2-(3-pyridyl)pyrimidine, 59 mg of 3-ethynyl-3-quinuclidinol, 19 mg of tetrakis(triphenylphosphine)palladium(0), 10 mg of cuprous iodide, 0.14 ml of triethylamine and 1.5 ml of N,N-dimethylformamide was heated under stirring in an oil bath kept at 100° C. for 2 hours in a nitrogen atmosphere. After cooling as it was, NH-silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 2.5% methanol/ethyl acetate, to give 62 mg of the target compound.

reactant | 4-benzyl-5-bromo-2-(3-pyridyl)pyrimidine | 110 mg | C(C1=CC=CC=C1)C1=NC(=NC=C1Br)C=1C=NC=CC1 | C16H12BrN3
reactant | 3-ethynyl-3-quinuclidinol | 59 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 3-[4-Benzyl-2-(3-pyridyl)-5-pyrimidyl]ethynyl-3-quinuclidinol | 62 mg | C(C1=CC=CC=C1)C1=NC(=NC=C1C#CC1(CN2CCC1CC2)O)C=2C=NC=CC2 | C25H24N4O
